US06329342B1
(R)-2-[(Tert-butoxy)carbonylamino]-2-methyl-N-[(N-{1-[2-(4-methylpiperidyl)-2-oxo-1-phenylethyl]imidazol-4-yl}carbamoyl)phenylmethyl]propanamide
N-methylmorpholine (0.16 mL, 1.49 mmol) was added to a suspension of 2-chloro-4,6-dimethoxy-1,3,5-triazine (268 mg, 1.53 mmol), 2-{2-[(tert-butoxy)carbonylamino]-2-methylpropanoylamino}-2-phenylacetic acid (502 mg, 1.49 mmol), CH2Cl2 (7 mL) and THF (2 mL) at 23° C. The heterogeneous reaction stirred for two hours and 2-(4-aminoimidazolyl)-1-(4-methylpiperidyl)-2-phenylethan-1-one dihydrochloride (613 mg, 1.65 mmol) was added. The mixture was stirred for 15.5 h, and EtOAc (40 mL) and 10% (w/w) aqueous citric acid (18 mL) were added. The layers were separated, and the organic layer was extracted with 15 mL each of saturated NaHCO3 and saturated NaCl. The organic layer was dried (MgSO4), concentrated in vacuo to 590 mg of solid, and purified by flash chromatography (10% i-PA/CHCl3) to yield 440 mg (48%) of a foamy solid: 1H NMR (CDCl3, 300 MHz) d 10.34 (m, 1H), 7.67 (s, 1H), 7.40-7.19 (m, 12H), 6.10 (m, 1H), 5.73 (m, 1H), 4.57 (m, 1H), 3.84 (m, 1H), 3.60 (m, 1H), 2.95 (m, 1H), 2.74-2.58 (m, 1H), 1.65-0.79 (m, 23H); 13C NMR (CDCl3, 75 MHz) 174.0, 167.0, 165.3, 137.7, 136.7, 134.2, 133.5, 133.4, 129.4, 129.3, 129.2, 129.2, 128.7, 128.5, 128.5, 128.3, 128.2, 128.0, 127.2, 127.2, 108.1, 62.1, 62.0, 62.0, 61.9, 57.1, 56.6, 46.0, 46.0, 45.8, 429, 34.2, 33.6, 33.5, 30.8, 30.7, 28.2, 21.5, 21.4 ppm; IR (CDCl3) 1456, 1487, 1560, 1661, 1707, 3010 cm−1; MS (electrospray) m/z 617 (M+H), 438 & 615 (M−H), 436.

reactant | N-methylmorpholine | 1.49 mmol, 0.16 mL | CN1CCOCC1 | C5H11NO
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | 1.53 mmol, 268 mg | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | 2-{2-[(tert-butoxy)carbonylamino]-2-methylpropanoylamino}-2-phenylacetic acid | 1.49 mmol, 502 mg | C(C)(C)(C)OC(=O)NC(C(=O)NC(C(=O)O)C1=CC=CC=C1)(C)C | C17H24N2O5
reactant | 2-(4-aminoimidazolyl)-1-(4-methylpiperidyl)-2-phenylethan-1-one dihydrochloride | 1.65 mmol, 613 mg | Cl.Cl.NC=1N=C(NC1)C(C(=O)N1CCC(CC1)C)C1=CC=CC=C1
reactant | citric acid | 18 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-[(Tert-butoxy)carbonylamino]-2-methyl-N-[(N-{1-[2-(4-methylpiperidyl)-2-oxo-1-phenylethyl]imidazol-4-yl}carbamoyl)phenylmethyl]propanamide | 440 mg, 48% | C(C)(C)(C)OC(=O)NC(C(=O)N[C@H](C1=CC=CC=C1)C(NC=1N=CN(C1)C(C(=O)N1CCC(CC1)C)C1=CC=CC=C1)=O)(C)C | C34H44N6O5
